US07713994B2
4-Dimethylaminomethylene-1,4-dihydro-2H-isoquinolin-3-one
A solution of 2.10 g (14.3 mmol) of 1,4-Dihydro-3(2H)-isoquinolinone and 4.42 g (37.2 mmol) of N,N-dimethylformamide-DMA in 21 mL of N,N-dimethylformamide is heated at 90° C. for 1 h. An additional 1.5 mL of N,N-dimethylformamide-DMA is added and heating is continued for 30 min. Volatile material is removed and the residue is slurried with Et2O, collected, washed with a large volume of Et2O and dried in vacuo to give 1.50 g (52%) of red-brown crystals: mp 188-190° C. (dec); 1H NMR (DMSO-d6) δ 7.48 (s, 1H), 7.23 (m, 2H), 7.11 (d, 1H, J=6.96 Hz), 7.01 (m, 1H), 6.87 (d, 1H, J=7.62 Hz), 4.11 (s, 2H), 2.88 (s, 6H); MS (ESI) m/z 203.1 (M+1). Analysis for C12H14N2O.0.1H2O: Calcd: C, 70.62; H, 7.03; N, 13.73. Found: C, 70.75; H, 7.17; N, 13.40.

reactant | 1,4-Dihydro-3(2H)-isoquinolinone | 14.3 mmol, 2.10 g | C1NC(CC2=CC=CC=C12)=O | C9H9NO
reactant | N,N-dimethylformamide DMA | 37.2 mmol, 4.42 g | CN(C=O)C.CC(=O)N(C)C
reactant | N,N-dimethylformamide DMA | 1.5 mL | CN(C=O)C.CC(=O)N(C)C
solvent | N,N-dimethylformamide | 21 mL | CN(C=O)C | C3H7NO
product | 4-Dimethylaminomethylene-1,4-dihydro-2H-isoquinolin-3-one | 1.50 g, 52% | CN(C)C=C1C(NCC2=CC=CC=C12)=O | C12H14N2O
